US07632838B2
2-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}-3-nitropyridine
Using the procedure from Example 7A, Step 7E, 4-[(3,4-dichlorophenyl)sulfonyl]piperidine (150 mg, 0.51 mmol) was reacted with 2-chloro-3-nitropyridine (97 mg, 0.61 mmol) to afford the title compound (212 mg), a yellow solid, in 74% yield.

reactant | 4-[(3,4-dichlorophenyl)sulfonyl]piperidine | 0.51 mmol, 150 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)C1CCNCC1 | C11H13Cl2NO2S
reactant | 2-chloro-3-nitropyridine | 0.61 mmol, 97 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
product | 2-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}-3-nitropyridine | 212 mg, 74% yield | ClC=1C=C(C=CC1Cl)S(=O)(=O)C1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-] | C16H15Cl2N3O4S
